* sg13cmos5l_IOPadAnalog -- real subcircuit hierarchy, excerpted verbatim
*
* Source: sudelbuecher/sg13cmos5l_IOPadInOut30mA/sg13cmos5l_io.spi
* (the file the user obtained directly from the IHP PDK install --
* NOT a ChatGPT transcription. Unlike sg13cmos5l_IOPadInOut30mA, this
* file's provenance was never in question: it is the real
* $PDK_ROOT/ihp-sg13cmos5l/libs.ref/sg13cmos5l_io/spice/sg13cmos5l_io.spi,
* read directly by this assistant. Every subckt below is a byte-for-byte
* copy of that file, with the source line number noted in each comment.)
*
* Copyright 2024 IHP PDK Authors, Apache-2.0 (see that file's own header,
* lines 6-22, reproduced there not here -- this is an excerpt for reading,
* not a redistribution copy).
*
* Assembled 2026-09-10 for the same purpose as
* sg13cmos5l_IOPadInOut30mA_full_hierarchy.spi served that cell: a single
* file holding the target subckt and its full dependency closure. The
* difference is entirely in the sourcing -- that file started as a
* colleague's (ChatGPT's) transcription and was checked against the real
* PDK only afterward; this one is copied from the real PDK file directly,
* first.

* ===========================================================================
* TOP: sg13cmos5l_IOPadAnalog  (real file, line 831-838)
* ===========================================================================
* 6 pins: vss vdd iovss iovdd pad padres
* NOTE (verified by inspection, not present in ChatGPT's IOPadInOut30mA
* transcription because that cell doesn't have this property): "vdd" and
* "vss" are declared subckt pins but appear NOWHERE in the body below --
* every instance line uses only iovss/iovdd/pad/padres. This pad's core-
* domain supply pins are wired through for pin-list uniformity across the
* sg13cmos5l_io library (see sg13cmos5l_Gallery, line 840, which instances
* every pad off the same vdd/vss/iovdd bus) but are electrically inert
* inside this specific cell: IOPadAnalog has no digital logic, so it never
* needed the 1.2V core rail at all.
*
* Consequence: unlike sg13cmos5l_IOPadInOut30mA (GateDecode + two LevelUp
* level shifters, c2p/c2p_en/p2c control pins), IOPadAnalog has NO active
* driver and NO digital control path. It is pure ESD/analog-signal
* protection: two self-biased passive HV clamps (Nclamp, Pclamp) plus two
* DC diode pairs plus one SecondaryProtection block guarding "padres" (a
* series-resistor-isolated tap of "pad", presumably the point an on-chip
* analog block actually connects to).

.subckt sg13cmos5l_IOPadAnalog vss vdd iovss iovdd pad padres
Xnclamp iovss iovdd pad sg13cmos5l_Clamp_N20N0D
Xpclamp iovss iovdd pad sg13cmos5l_Clamp_P20N0D
Xdcndiode iovss pad iovdd sg13cmos5l_DCNDiode
Xdcpdiode pad iovdd iovss sg13cmos5l_DCPDiode
Xsecondprot iovdd iovss pad padres sg13cmos5l_SecondaryProtection
.ends sg13cmos5l_IOPadAnalog

* ===========================================================================
* sg13cmos5l_Clamp_N20N0D  (real file, line 757-782)
* ===========================================================================
* 3 pins only: iovss iovdd pad -- NO gate pin. Compare
* sg13cmos5l_Clamp_N15N15D (used by IOPadInOut30mA), which has a 4th pin
* "gate" driven by GateDecode's ngate output -- that clamp doubles as the
* pad's active pull-down driver. This one has nowhere for an external
* signal to enter: it is passive-only, self-biased entirely internally.
*
* 20 sg13_hv_nmos fingers (l=0.6um w=4.4um each), drain/source alternating
* pad/iovss for adjacent fingers (shared-diffusion layout), every gate
* tied to one internal node "off". "off" is held near iovss in normal
* operation by XRoff, a single resistor from iovss to "off" -- so the
* clamp's own fingers stay off under normal bias. During an ESD transient
* on "pad", gate-drain coupling through the fingers' Cgd pulls "off"
* upward fast enough (Roff is a weak pull-down) to turn the stack on
* momentarily and shunt the transient to iovss. This is the standard
* gate-grounded / RC-less self-triggering passive NMOS clamp topology --
* distinct from Clamp_N15N15D's actively-gated version, and consistent
* with IOPadAnalog having no digital signal to gate it with.

.subckt sg13cmos5l_Clamp_N20N0D iovss iovdd pad
Xclamp_g0  iovss off pad  iovss sg13_hv_nmos l=0.6um w=4.4um
Xclamp_g1  pad  off iovss iovss sg13_hv_nmos l=0.6um w=4.4um
Xclamp_g2  iovss off pad  iovss sg13_hv_nmos l=0.6um w=4.4um
Xclamp_g3  pad  off iovss iovss sg13_hv_nmos l=0.6um w=4.4um
Xclamp_g4  iovss off pad  iovss sg13_hv_nmos l=0.6um w=4.4um
Xclamp_g5  pad  off iovss iovss sg13_hv_nmos l=0.6um w=4.4um
Xclamp_g6  iovss off pad  iovss sg13_hv_nmos l=0.6um w=4.4um
Xclamp_g7  pad  off iovss iovss sg13_hv_nmos l=0.6um w=4.4um
Xclamp_g8  iovss off pad  iovss sg13_hv_nmos l=0.6um w=4.4um
Xclamp_g9  pad  off iovss iovss sg13_hv_nmos l=0.6um w=4.4um
Xclamp_g10 iovss off pad  iovss sg13_hv_nmos l=0.6um w=4.4um
Xclamp_g11 pad  off iovss iovss sg13_hv_nmos l=0.6um w=4.4um
Xclamp_g12 iovss off pad  iovss sg13_hv_nmos l=0.6um w=4.4um
Xclamp_g13 pad  off iovss iovss sg13_hv_nmos l=0.6um w=4.4um
Xclamp_g14 iovss off pad  iovss sg13_hv_nmos l=0.6um w=4.4um
Xclamp_g15 pad  off iovss iovss sg13_hv_nmos l=0.6um w=4.4um
Xclamp_g16 iovss off pad  iovss sg13_hv_nmos l=0.6um w=4.4um
Xclamp_g17 pad  off iovss iovss sg13_hv_nmos l=0.6um w=4.4um
Xclamp_g18 iovss off pad  iovss sg13_hv_nmos l=0.6um w=4.4um
Xclamp_g19 pad  off iovss iovss sg13_hv_nmos l=0.6um w=4.4um
XOuterRing iovdd sg13cmos5l_GuardRing_N16000W1980HFF
XInnerRing iovss sg13cmos5l_GuardRing_P15280W1260HFF
XRoff      iovss off sub! rppd l=3.54um w=0.5um
.ends sg13cmos5l_Clamp_N20N0D

* ===========================================================================
* sg13cmos5l_Clamp_P20N0D  (real file, line 784-829)
* ===========================================================================
* 3 pins: iovss iovdd pad -- again no gate pin. Structural P-side mirror
* of Clamp_N20N0D: 20 finger *positions*, each built from 2 parallel
* sg13_hv_pmos devices ("_r0"/"_r1", l=0.6um w=6.66um) instead of 1 -- so
* 40 physical transistors total, twice Clamp_N20N0D's device count, same
* pattern seen in the InOut30mA pad's Clamp_P15N15D vs Clamp_N15N15D pair.
* Self-biased the same way, mirrored to the positive rail: XRoff runs
* iovdd -> "off" (a much larger resistor here, l=12.9um vs 3.54um, i.e.
* a weaker/slower pull-up -- consistent with needing the "off" node to
* sit close to iovdd rather than iovss).

.subckt sg13cmos5l_Clamp_P20N0D iovss iovdd pad
Xclamp_g0_r0  iovdd off pad  iovdd sg13_hv_pmos l=0.6um w=6.66um
Xclamp_g0_r1  iovdd off pad  iovdd sg13_hv_pmos l=0.6um w=6.66um
Xclamp_g1_r0  pad  off iovdd iovdd sg13_hv_pmos l=0.6um w=6.66um
Xclamp_g1_r1  pad  off iovdd iovdd sg13_hv_pmos l=0.6um w=6.66um
* ... (g2 through g18 repeat the same g_r0/g_r1 alternating pattern;
*      elided here for length -- see the real .spi lines 790-823, or
*      sg13cmos5l_io.spi in this same sudelbuecher/ tree, for all 40
*      lines verbatim. Nothing about the pattern changes.)
Xclamp_g19_r0 pad  off iovdd iovdd sg13_hv_pmos l=0.6um w=6.66um
Xclamp_g19_r1 pad  off iovdd iovdd sg13_hv_pmos l=0.6um w=6.66um
XOuterRing iovss sg13cmos5l_GuardRing_P16000W3852HFF
XInnerRing iovdd sg13cmos5l_GuardRing_N15280W3132HTF
XRoff      iovdd off sub! rppd l=12.9um w=0.5um
.ends sg13cmos5l_Clamp_P20N0D

* ===========================================================================
* sg13cmos5l_DCNDiode / sg13cmos5l_DCPDiode  (real file, line 148-165)
* ===========================================================================
* Reused verbatim from the sg13cmos5l_IOPadInOut30mA dependency tree
* already read for that cell -- same two subckts, unchanged. Each is a
* pair of parallel diode-primitive devices (dantenna/dpantenna, not a
* MOSFET) plus one guard-ring tie. Not representable by the
* analog-schematic skill (no Diode primitive) -- see the render-scope
* note at the end of this file.

.subckt sg13cmos5l_DCNDiode anode cathode guard
Xdcdiode[0] anode cathode dantenna l=1.26um w=27.78um
Xdcdiode[1] anode cathode dantenna l=1.26um w=27.78um
Xguard guard sg13cmos5l_GuardRing_N7276W2716HFF
.ends sg13cmos5l_DCNDiode

.subckt sg13cmos5l_DCPDiode anode cathode guard
Xdcdiode[0] anode cathode dpantenna l=1.26um w=27.78um
Xdcdiode[1] anode cathode dpantenna l=1.26um w=27.78um
Xguard guard sg13cmos5l_GuardRing_P7276W2716HFF
.ends sg13cmos5l_DCPDiode

* ===========================================================================
* sg13cmos5l_SecondaryProtection  (real file, line 89-97)
* ===========================================================================
* Also reused verbatim from the IOPadInOut30mA tree (it sits inside
* LevelDown there, guarding a receiver input; here it guards "padres"
* directly off the pad). One resistor (TwoTerm-compatible) plus two
* diode-primitive devices plus three guard-ring ties.

.subckt sg13cmos5l_SecondaryProtection iovdd iovss pad core
XR pad core sub! rppd l=2.0um w=1.0um
Xguard1 iovss sg13cmos5l_GuardRing_P576W948HFF
XDN iovss core dantenna l=3.1um w=0.64um
Xguard2 iovss sg13cmos5l_GuardRing_P456W948HFF
XDP core iovdd dpantenna l=0.64um w=4.98um
Xguard3 iovdd sg13cmos5l_GuardRing_N1324W456HTF
.ends sg13cmos5l_SecondaryProtection

* ===========================================================================
* Guard rings (real file, various lines) -- all empty placeholder subckts,
* geometry-only ring cells, one pin ("conn"). Same status as the
* GuardRing_* subckts already documented for IOPadInOut30mA: real,
* present in the spice hierarchy, electrically trivial, not elevated to
* separate GDS cells. Full list of the ones this cell's tree touches:
*   GuardRing_N16000W1980HFF   (line 505)  -- Clamp_N20N0D outer ring
*   GuardRing_P15280W1260HFF   (line 510)  -- Clamp_N20N0D inner ring
*   GuardRing_P16000W3852HFF   (line 524)  -- Clamp_P20N0D outer ring
*   GuardRing_N15280W3132HTF   (line 529)  -- Clamp_P20N0D inner ring
*   GuardRing_N7276W2716HFF    (line 144)  -- DCNDiode guard
*   GuardRing_P7276W2716HFF    (line 156)  -- DCPDiode guard
*   GuardRing_P576W948HFF      (line 75)   -- SecondaryProtection guard1
*   GuardRing_P456W948HFF      (line 80)   -- SecondaryProtection guard2
*   GuardRing_N1324W456HTF     (line 85)   -- SecondaryProtection guard3
* Same four (N16000W1980HFF / P15280W1260HFF / P16000W3852HFF /
* N15280W3132HTF) are also the ones Clamp_N2N2D / Clamp_P2N2D use
* (line 514-539) -- the ring geometry apparently tracks the clamp array's
* physical footprint class, not its finger count.

* ===========================================================================
* Render-scope note
* ===========================================================================
* Unlike IOPadInOut30mA, this cell has no Mosfet-only *signal/logic* path
* to render (no GateDecode, no LevelUp) -- everything here is either a
* large parallel ESD-clamp finger array or a diode-primitive block the
* analog-schematic skill's sch_netlist.py cannot draw at all (no Diode
* class). The one piece that IS cleanly Mosfet+TwoTerm renderable, and
* structurally different from anything shown for IOPadInOut30mA, is the
* self-biased passive clamp's *unit cell*: a representative few fingers
* of Clamp_N20N0D plus its Roff bias resistor, labeled as one slice of
* the full 20-way (or, for the P-clamp, 40-way) array. See
* sg13cmos5l_Clamp_N20N0D_unitcell_drc.py / .svg / .png in this folder.
